US07576108B2
b: (E)-2-(4-Bromo-phenyl)-3-cyclohexyl-acrylic acid
Dissolve E/Z mixture of 2-(4-bromo-phenyl)-3-cyclohexyl-acrylic acid ethyl ester (158.9 g, 472 mmol) in methanol (800 mL) and add the solution to sodium methoxide in methanol (222 mL, 30%). Stir the reaction mixture at 50° C. for 72 h. Add water (17 mL) and 5 N aqueous sodium hydroxide solution (10 mL) and stir at 50° C. until all methyl ester is hydrolyzed (1-4,days). Add water and evaporate the methanol; Add ether (300 mL) and water (200 mL) and adjust the pH to a value of 1 with 1 N HCl. Separate the layers and extract the aqueous layer with ether. Dry the combined organic layers organic phase over sodium sulfate, filter and concentrate. Recrystallization of the residue in EtOAc affords the title compound as a white solid (93.3 g). MS (m/e): 309 (M+H).

reactant | 2-(4-bromo-phenyl)-3-cyclohexyl-acrylic acid ethyl ester | 472 mmol, 158.9 g | C(C)OC(C(=CC1CCCCC1)C1=CC=C(C=C1)Br)=O | C17H21BrO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | 17 mL | O | H2O
reactant | sodium hydroxide | 5 N, 10 mL | [OH-].[Na+]
solvent | methanol | 800 mL | CO | CH4O
solvent | methanol | 222 mL | CO | CH4O
product | (E)-2-(4-Bromo-phenyl)-3-cyclohexyl-acrylic acid | 93.3 g | BrC1=CC=C(C=C1)/C(/C(=O)O)=C\C1CCCCC1 | C15H17BrO2
